US04115568
(l) Ethyl 5-ethyl-2-(2-trifluoromethyl-6-nitroanilino)-thiophene-3-carboxylate
Ethyl 2-amino-5-ethylthiophene-3-carboxylate and 2-fluoro-3-trifluoromethylnitrobenzene, m.p. 72°-73° C. (EtOH).

reactant | Ethyl 2-amino-5-ethylthiophene-3-carboxylate | NC=1SC(=CC1C(=O)OCC)CC | C9H13NO2S
reactant | 2-fluoro-3-trifluoromethylnitrobenzene | FC1=C(C=CC=C1C(F)(F)F)[N+](=O)[O-] | C7H3F4NO2
solvent | EtOH | CCO | C2H6O
product | Ethyl 5-ethyl-2-(2-trifluoromethyl-6-nitroanilino)-thiophene-3-carboxylate | C(C)C1=CC(=C(S1)NC1=C(C=CC=C1[N+](=O)[O-])C(F)(F)F)C(=O)OCC | C16H15F3N2O4S
